US05506239
A solution of 53.3 g of 6-(4-chlorobutoxy)carbostyril and 32 g of sodium sulfite dissolved in 500 ml of water and 200 ml of ethanol was refluxed for 1 day. The solution was allowed to cool and stand for 3 days and then filtered. The filtrate was made acidic with diluted hydrochloric acid. The solvent was removed by distillation. To the resulting residue was-added water, and the precipitate was collected by filtration to obtain 47.5 g of 6-(4-hydroxysulfonylbutoxy)carbostyril as a white powder.

reactant | 6-(4-chlorobutoxy)carbostyril | 53.3 g | ClCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium sulfite | 32 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 6-(4-hydroxysulfonylbutoxy)carbostyril | 47.5 g | OS(=O)(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H15NO5S
